US06458780B1
A solution of 23.9 g of p-toluenesulfonyl chloride in 100 ml of dichloromethane was cooled to ice temperature in an argon atmosphere. Aluminum chloride (15.3 g) was added thereto. The mixture was stirred for 10 min. A solution of 3.15 g of imidazo[5,1-b]thiazole in 25 ml of dichloromethane was added dropwise thereto. The mixture was stirred for 22 hr. Dichloromethane (200 ml), 70 ml of water, and 75 g of a sodium carbonate powder were added thereto, followed by extraction. The extract was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure to give 995 mg of 7-p-toluenesulfonylimidazo[5,1-b]thiazole.

reactant | p-toluenesulfonyl chloride | 23.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Aluminum chloride | 15.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | imidazo[5,1-b]thiazole | 3.15 g | S1C=2N(C=C1)C=NC2 | C5H4N2S
reactant | sodium carbonate | 75 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 70 ml | O | H2O
product | 7-p-toluenesulfonylimidazo[5,1-b]thiazole | 995 mg | C1(=CC=C(C=C1)S(=O)(=O)C=1N=CN2C1SC=C2)C | C12H10N2O2S2
